US07459472B2
DMS (13 mg, 0.04 mmol) was added to a solution of 4-Methoxy-4′-trifluoromethyl-biphenyl-3-carboxylic acid [2-(3′-chloro-4′-fluoro-biphenyl-4-yl)-1-(R)-methoxymethyl-ethyl]-amide (24 mg, 0.04 mmol) in 3 mL of anhydrous CH2Cl2, at −78° C. and slowly allowed to come to room temperature and stirred for 2 h. After completion of the reaction, reaction was cooled to −78° C. and 0.5 mL of MeOH was added, solvent was removed under vacuum and the residue was taken in ethyl acetate (4 mL) and washed with aq NaHCO3 solution, water, brine and dried over Na2SO4. Solvent was removed under vacuum and silica gel column chromatography (Ethyl acetate: Hexanes) gave pure 4-Hydroxy-4′-trifluoromethyl-biphenyl-3-carboxylic acid [2-(3′-chloro-4′-fluoro-biphenyl-4-yl)-1-(R)-methoxymethyl-ethyl]-amide (14 mg).

reactant | DMS | 0.04 mmol, 13 mg | CSC | C2H6S
reactant | 4-Methoxy-4′-trifluoromethyl-biphenyl-3-carboxylic acid [2-(3′-chloro-4′-fluoro-biphenyl-4-yl)-1-(R)-methoxymethyl-ethyl]-amide | 0.04 mmol, 24 mg | ClC=1C=C(C=CC1F)C1=CC=C(C=C1)C[C@H](COC)NC(=O)C=1C=C(C=CC1OC)C1=CC=C(C=C1)C(F)(F)F | C31H26ClF4NO3
reactant | MeOH | 0.5 mL | CO | CH4O
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 4-Hydroxy-4′-trifluoromethyl-biphenyl-3-carboxylic acid [2-(3′-chloro-4′-fluoro-biphenyl-4-yl)-1-(R)-methoxymethyl-ethyl]-amide | 14 mg | ClC=1C=C(C=CC1F)C1=CC=C(C=C1)C[C@H](COC)NC(=O)C=1C=C(C=CC1O)C1=CC=C(C=C1)C(F)(F)F | C30H24ClF4NO3
